US05470878
A mixture of 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine (428 mg, 1.3 mmol) and 30% hydrogen bromide in acetic acid (0.8 ml, 3.9 mmol) was stirred for 90 minutes. The solution was poured into a mixture of water (10 ml), sodium bicarbonate (1.35 g), and dichloromethane (10 ml). After 10 minutes of vigorous stirring the layers were separated and the aqueous portion was extracted with dichloromethane (3×15 ml). The combined organic phases were dried over sodium sulfate and the solvent was evaporated under vacuum to give 1-(8-acetoxy-9-bromononyl)-3,7-dimethylxanthine (550 mg, 96% yield) as a yellow oil. Without further purification, the oil was dissolved in methanol (5 ml) and then a 1M solution of sodium methoxide in methanol (1.4 ml) was added. After 30 minutes the reaction mixture was poured into water (30 ml) and extracted with dichloromethane (3×40 ml). The combined organic phases were dried over sodium sulfate and the solvents evaporated under vacuum. The solid residue was recrystallized (dichloromethane-petroleum ether) to give 1-(8,9-oxidononyl)-3,7-dimethylxanthine (380 mg, 91% yield).

reactant | 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine | 1.3 mmol, 428 mg | OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C16H26N4O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 3.9 mmol, 0.8 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 1.35 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 1-(8-acetoxy-9-bromononyl)-3,7-dimethylxanthine | 550 mg, 96% yield | C(C)(=O)OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C18H27BrN4O4
